US04555570
2'-(N-2-Carbethoxyethylamino)-3',4'-dimethoxyacetophenone
Triethylamine (19.4 g, 192 mM) was added to a mixture of 2'-amino-3',4'-dimethoxyacetophenone (25 g, 128 mM) and ethyl 3-bromopropionate (139 g, 770 mM), in a 250 mL flask (equipped with a large stirring bar, reflux condenser and nitrogen inlet). The pale solid which formed was stirred at 135° C. for 5 hours. The brown homogeneous oil which formed was then cooled to 10° C. and 200 mL of 2% NaHCO3 was added. The solution was then extracted with CHCl3 (3×100 mL), the organic layer washed with H2O (100 mL) and dried over MgSO4. Following filtration, the CHCl3 and most of the bromopropionate were removed under reduced pressure. The oily residue was charged onto a 10×75 cm, SilicAR CC-7 column (800 g, hexane packed) and eluted with 5 to 20% ethylacetate/hexane, collecting 1 L fractions. Evaporation of fractions 7-9 gave purified 2'-(N-2-carbethoxyethylamino)-3',4'-dimethoxyacetophenone as a yellow oil (5.86 g, 15%); UV (EtOH) nm: 244 (ε29110), 284 (ε11480); MS (Probe) 295 (M+).

reactant | 2'-amino-3',4'-dimethoxyacetophenone | 128 mM, 25 g | NC1=C(C=CC(=C1OC)OC)C(C)=O | C10H13NO3
reactant | ethyl 3-bromopropionate | 770 mM, 139 g | BrCCC(=O)OCC | C5H9BrO2
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | Triethylamine | 192 mM, 19.4 g | C(C)N(CC)CC | C6H15N
product | 2'-(N-2-Carbethoxyethylamino)-3',4'-dimethoxyacetophenone | C(=O)(OCC)CCNC1=C(C=CC(=C1OC)OC)C(C)=O | C15H21NO5
